* extracted by klt extract --deck gf180mcu
* parasitic model (--parasitics):
* - capacitance: net-to-ground for every net's own (non-coupled) area/perimeter, plus net-to-net for the vertical-overlap coupling `coupling` describes below -- a coupled net pair gets a direct capacitor between their two hub nodes, not just capacitors to the deck's ground/substrate net
* - coupling: vertical overlap (crossover) unconditionally -- where one net's conductor on an adjacent metal level sits directly over another *distinct* net's conductor, that overlap area is charged between the two nets instead of to ground (issue #760) -- plus lateral (same-layer, sidewall) coupling, but only for a net pair naming one of the caller's declared `--critical-net` nets (issue #976): facing-edge length within that layer's own minimum-spacing lookback is charged between the two nets, *additively* (not deducted from either net's substrate fringe term, unlike the vertical case -- a known simplification). Any same-layer pair with neither side named `--critical-net`, and fringe shielding in general, are still not modelled
* - resistance: single lumped series resistance per net, distributed as a star across that net's device terminals (issue #592) -- not a per-segment, distributed RC ladder, *unless* `--distributed-rc` names this net via `--critical-net` (issue #977, Epic #709 Phase 2b): then the net's terminals are ordered along their approximate physical spread and its total R/C is broken into a chain of per-segment resistors (segment length proportional to inter-terminal distance) with a ground capacitor at each terminal node (proportional to its adjacent segment length/2), instead of one star hub -- still an approximation (terminal position is a device-placement proxy, not true per-segment routing geometry), but a strictly finer-grained one than the single-hub star
* - frequency: quasi-static -- one frequency-independent R and C per net; no skin effect, no distributed transmission-line behavior

* cell sram_bitcell_6t
* pin BL
* pin BLB
* pin Q
* pin QB
* pin VDD
* pin VSS
* pin WL
.SUBCKT sram_bitcell_6t BL BLB Q QB VDD VSS WL
* device instance $1 r0 *1 0.78,1.77 nfet
X$1 Q__t3 WL__t0 BL__t0 VSS__t0 nfet_03v3 L=0.28U W=0.24U AS=0.1684P AD=0.1022P
+ PS=1.72U PD=0.96U
* device instance $2 r0 *1 3.68,1.77 nfet
X$2 BLB__t0 WL__t1 QB__t3 VSS__t1 nfet_03v3 L=0.28U W=0.24U AS=0.1022P
+ AD=0.1684P PS=0.96U PD=1.72U
* device instance $3 r0 *1 1.64,1.83 nfet
X$3 VSS__t4 QB__t0 Q__t4 VSS__t2 nfet_03v3 L=0.28U W=0.36U AS=0.1022P AD=0.169P
+ PS=0.96U PD=1.28U
* device instance $4 r0 *1 2.82,1.83 nfet
X$4 QB__t4 Q__t0 VSS__t5 VSS__t3 nfet_03v3 L=0.28U W=0.36U AS=0.169P AD=0.1022P
+ PS=1.28U PD=0.96U
* device instance $5 r0 *1 1.64,3.71 pfet
X$5 VDD__t2 QB__t1 Q__t1 VDD__t0 pfet_03v3 L=0.28U W=0.22U AS=0.1664P AD=0.155P
+ PS=1.72U PD=1.28U
* device instance $6 r0 *1 2.82,3.71 pfet
X$6 QB__t2 Q__t2 VDD__t3 VDD__t1 pfet_03v3 L=0.28U W=0.22U AS=0.155P AD=0.1664P
+ PS=1.28U PD=1.72U
* device instance BL_t0 r0 *1 0,0 
RBL_t0 BL__t0 BL 1.617
* device instance BL r0 *1 0,0 
CBL BL vsubs 4.97235e-16
* device instance BLB_t0 r0 *1 0,0 
RBLB_t0 BLB__t0 BLB 1.617
* device instance BLB r0 *1 0,0 
CBLB BLB vsubs 4.97235e-16
* device instance Q_t0 r0 *1 0,0 
RQ_t0 Q__t0 Q 19.5710864303
* device instance Q_t1 r0 *1 0,0 
RQ_t1 Q__t1 Q 20.0652285115
* device instance Q_t2 r0 *1 0,0 
RQ_t2 Q__t2 Q 24.5134017732
* device instance Q_t3 r0 *1 0,0 
RQ_t3 Q__t3 Q 23.985296385
* device instance Q_t4 r0 *1 0,0 
RQ_t4 Q__t4 Q 13.5916868999
* device instance Q r0 *1 0,0 
CQ Q vsubs 7.64576e-16
* device instance QB_t0 r0 *1 0,0 
RQB_t0 QB__t0 QB 19.5710864303
* device instance QB_t1 r0 *1 0,0 
RQB_t1 QB__t1 QB 24.5134017732
* device instance QB_t2 r0 *1 0,0 
RQB_t2 QB__t2 QB 20.0652285115
* device instance QB_t3 r0 *1 0,0 
RQB_t3 QB__t3 QB 23.985296385
* device instance QB_t4 r0 *1 0,0 
RQB_t4 QB__t4 QB 13.5916868999
* device instance QB r0 *1 0,0 
CQB QB vsubs 7.69928e-16
* device instance VDD_t0 r0 *1 0,0 
RVDD_t0 VDD__t0 VDD 0.5169
* device instance VDD_t1 r0 *1 0,0 
RVDD_t1 VDD__t1 VDD 0.5169
* device instance VDD_t2 r0 *1 0,0 
RVDD_t2 VDD__t2 VDD 0.5169
* device instance VDD_t3 r0 *1 0,0 
RVDD_t3 VDD__t3 VDD 0.5169
* device instance VDD r0 *1 0,0 
CVDD VDD vsubs 7.51071e-16
* device instance VSS_t0 r0 *1 0,0 
RVSS_t0 VSS__t0 VSS 0.556464901779
* device instance VSS_t1 r0 *1 0,0 
RVSS_t1 VSS__t1 VSS 0.556464901779
* device instance VSS_t2 r0 *1 0,0 
RVSS_t2 VSS__t2 VSS 0.226467549111
* device instance VSS_t3 r0 *1 0,0 
RVSS_t3 VSS__t3 VSS 0.226467549111
* device instance VSS_t4 r0 *1 0,0 
RVSS_t4 VSS__t4 VSS 0.226467549111
* device instance VSS_t5 r0 *1 0,0 
RVSS_t5 VSS__t5 VSS 0.226467549111
* device instance VSS r0 *1 0,0 
CVSS VSS vsubs 7.87168e-16
* device instance WL_t0 r0 *1 0,0 
RWL_t0 WL__t0 WL 102.29785
* device instance WL_t1 r0 *1 0,0 
RWL_t1 WL__t1 WL 102.29785
* device instance WL r0 *1 0,0 
CWL WL vsubs 8.89491e-16
* device instance cc_Q_VDD r0 *1 0,0 
Ccc_Q_VDD Q VDD 1.053e-17
* device instance cc_Q_VSS r0 *1 0,0 
Ccc_Q_VSS Q VSS 5.454e-18
* device instance cc_QB_VSS r0 *1 0,0 
Ccc_QB_VSS QB VSS 5.454e-18
* device instance cc_VDD_VSS r0 *1 0,0 
Ccc_VDD_VSS VDD VSS 3.0234e-17
.ENDS sram_bitcell_6t
